US07232819B2
Step 4: N-(4-fluorobenzyl)-5,6-dihydroxy-2-pyrrolidin-2-ylpyrimidine-4-carboxamide (C-17)
A solution of methyl 5-(benzoyloxy)-6-hydroxy-2-pyrrolidin-2-ylpyrimidine-4-carboxylate (C-16) (1.0 eq.) in MeOH was treated with 4-fluorobenzylamine (3.0 eq.). The solution was stirred at reflux until the starting material was consumed as determined by MS analysis. The reaction was concentrated and the product (C-17) was precipitated with MeOH and collected by filtration.

reactant | methyl 5-(benzoyloxy)-6-hydroxy-2-pyrrolidin-2-ylpyrimidine-4-carboxylate | 1.0 eq. | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1O)C1NCCC1)C(=O)OC | C17H17N3O5
reactant | 4-fluorobenzylamine | 3.0 eq. | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | MeOH | CO | CH4O
product | N-(4-fluorobenzyl)-5,6-dihydroxy-2-pyrrolidin-2-ylpyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C2=NC(=NC(=C2O)O)C2NCCC2)C=C1 | C16H17FN4O3
